US07125904B2
[4-(tert-butyldimethylsilanyloxy)-3-hydroxybutyl]carbamic acid tert-butyl ester
To a stirred solution of (3,4-dihydroxybutyl)carbamic acid tert-butyl ester (2.60 g, 12.7 mmol), triethylamine (2.03 mL, 14.50 mmol) and 4-(dimethylamino)pyridine (0.05 g, 0.4 mmol) in anhydrous dichloromethane (40 mL) at room temperature was added tert-butyldimethylchlorosilane (2.0 g, 13.17 mmol) in one portion. The resulting mixture was stirred at room temperature for 18 hours, washed with water, brine and dried over anhydrous magnesium sulfate. Filtration and concentration in vacuo gave an oil which was purified by column chromatography on silica using ethyl acetate-petroleum ether mixture as eluent to afford a colourless oil.

reactant | (3,4-dihydroxybutyl)carbamic acid tert-butyl ester | 12.7 mmol, 2.60 g | C(C)(C)(C)OC(NCCC(CO)O)=O | C9H19NO4
reactant | triethylamine | 14.50 mmol, 2.03 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyldimethylchlorosilane | 13.17 mmol, 2.0 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
catalyst | 4-(dimethylamino)pyridine | 0.4 mmol, 0.05 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | [4-(tert-butyldimethylsilanyloxy)-3-hydroxybutyl]carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCC(CO[Si](C)(C)C(C)(C)C)O)=O | C15H33NO4Si
